US05550132
3-(Dimethylamino)Propyl Hexadecanoate
This intermediate was prepared in a manner analogous to that of 2-(dimethylamino)ethyl octanoate from 3-bromopropyl hexadecanoate (3 g, 7.95 mmol) and 40% aqueous dimethylamine (15 mL, 119 mmol) in acetonitrile (20 mL). The resulting material was applied to a silica gel column (discontinuous gradient of chloroform/methanol 95:5, 8:2 as eluent) affording 1.3 g pure product. Yield 72%; mp 49°-50° C.; 1H NMR (CDCl3) 0.85-0.95 (t, CH3 (CH2)12), 1.20-1.40 (m, CH3 (CH2)12), 1.55-1.70 (m, CH2 CH2 CO), 1.88-2.00 (m, O CH2 CH2 CH2 N), 2.27-2.35 (t, CH2 CH2 CO), 2.37-2.45 (s, (CH3)2 N) 2.50-2.62 (t, O CH2 CH2 CH2 N), 4.10-4.18 (t, O CH2 CH2 CH2 N).

reactant | 2-(dimethylamino)ethyl octanoate | C(CCCCCCC)(=O)OCCN(C)C | C12H25NO2
reactant | 3-bromopropyl hexadecanoate | 7.95 mmol, 3 g | C(CCCCCCCCCCCCCCC)(=O)OCCCBr | C19H37BrO2
reactant | dimethylamine | 119 mmol, 15 mL | CNC | C2H7N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-(Dimethylamino)Propyl Hexadecanoate | 1.3 g, Yield 72% | C(CCCCCCCCCCCCCCC)(=O)OCCCN(C)C | C21H43NO2
